US05374720
The same procedure as in Example 8-1 was carried out by using allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (331 mg, 0.66 mmol), (2R,4S)-N-allyloxycarbonyl-2-(2-azetidinon-3-ylmethyl)-4-mercaptopyrrolidine (180 mg, 0.66 mmol) and N,N-diisopropylethylamine (0.12 ml, 0.66 mmol) to obtain allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(2-azetidinon-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (125 mg, yield: 36.3%) in the form of foam.

reactant | allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0.66 mmol, 331 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C | C25H26NO8P
reactant | (2R,4S)-N-allyloxycarbonyl-2-(2-azetidinon-3-ylmethyl)-4-mercaptopyrrolidine | 0.66 mmol, 180 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CC1C(NC1)=O | C12H18N2O3S
reactant | N,N-diisopropylethylamine | 0.66 mmol, 0.12 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(2-azetidinon-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 125 mg, yield: 36.3% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)CC2C(NC2)=O | C25H33N3O7S
